US09284272B2
2-(4-Hydroxy-3-methoxyphenyl)acetonitrile (0.54 g, 3.31 mmol) in THF (10 mL) was treated with 3-cyclopentylpropan-1-ol (0.424 g, 3.31 mmol), triphenylphosphine (1.128 g, 4.3 mmol) and cooled in an ice bath to 0° C. DIAD (0.785 ml, 4 mmol) was added to the reaction mixture dropwise over the period of 5 min, and the reaction was left stirring slowly warming to room temperature over 18 hours. The reaction mixture was concentrated. Purification by flash chromatography (silica gel, 0-40% EtOAc/hexanes) afforded 0.871 g (96%) of 2-(4-(3-cyclopentylpropoxy)-3-methoxyphenyl)acetonitrile. MS (ESI) m/z 274 (M+H)+

reactant | 2-(4-Hydroxy-3-methoxyphenyl)acetonitrile | 3.31 mmol, 0.54 g | OC1=C(C=C(C=C1)CC#N)OC | C9H9NO2
reactant | 3-cyclopentylpropan-1-ol | 3.31 mmol, 0.424 g | C1(CCCC1)CCCO | C8H16O
reactant | triphenylphosphine | 4.3 mmol, 1.128 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 4 mmol, 0.785 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(4-(3-cyclopentylpropoxy)-3-methoxyphenyl)acetonitrile | 0.871 g, 96% | C1(CCCC1)CCCOC1=C(C=C(C=C1)CC#N)OC | C17H23NO2
